US05935976
46b) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3-methoxyphenyl)methyl]-dihydrofuran-2-(3H)-one
In analogy with Example 44c), 1.5 g of 5(S)-[l(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one [Example 2b)] in 3 ml of abs. THF are deprotonated (-75° C.) with 9.62 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, and with the addition of 0.998 ml of DMPU and alkylated with 1.22 g of 3-methoxybenzyl iodide. Chromatography on silica gel (eluent E) affords the pure title compound. TLC Rf (hexane/ethyl acetate, 2.5:1)=0.32. FAB-MS (M+H)+ =426.

reactant | 5(S)-[l(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one | 1.5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | DMPU | 0.998 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | 3-methoxybenzyl iodide | 1.22 g | COC=1C=C(CI)C=CC1 | C8H9IO
solvent | THF | C1CCOC1 | C4H8O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(3-methoxyphenyl)methyl]-dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=CC=C1)OC | C25H31NO5
